US06559172B1
Preparation of (4R*,5R*)-5-(4-Fluoro-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole
In a manner analogous to Preparation 1, 4-fluorobenzaldehyde (0.18 g, 1.47 mmol), tosylmethylisocyanide (0.27 g, 1.40 mmol) and NaCN (6.9 mg, 0.14 mmol) gave the desired compound as a tan solid. MS(ES+) m/z 320.6 (M+H+).

reactant | 4-fluorobenzaldehyde | 1.47 mmol, 0.18 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | tosylmethylisocyanide | 1.40 mmol, 0.27 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.14 mmol, 6.9 mg | [C-]#N.[Na+]
product | (4R*,5R*)-5-(4-Fluoro-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole | FC1=CC=C(C=C1)[C@@H]1[C@H](N=CO1)S(=O)(=O)C1=CC=C(C=C1)C | C16H14FNO3S
